### PR TITLE
[Merged by Bors] - feat(Data/Fintype/Card): existsUnique_notMem_image_of_injective_of_card_succ

### PR DESCRIPTION
**Pull request by cjrl**
This pull requests adds a small theorem `existsUnique_notMem_image_of_injective_of_card_succ` to `Mathlib/Data/Fintype/Card` that says given an injective map f : α → β such that β has cardinality one more than α, there exists a unique element of β not in the image of f. 

This can be viewed as going in the opposite direction of `card_lt_of_injective_of_notMem`. 

This little fact is needed for our Latin Square PR #36698.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by cjrl** [comment]
+t-set-theory

File: Mathlib/Data/Fintype/Card.lean [hunk 1]
```diff
@@ -254,6 +254,22 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
       Finset.card_lt_univ_of_notMem (x := b) <| by
         rwa [← mem_coe, coe_map, coe_univ, Set.image_univ]
 
+/-- Given an injective map f : α → β such that β has cardinality one more
+    than α, there exists a unique element of β not in the image of f.
+-/
```
Comment (IvanRenison) [inline Mathlib/Data/Fintype/Card.lean]:
```suggestion
/-- Given an injective map `f : α → β` such that `β` has cardinality one more
than `α`, there exists a unique element of `β` not in the image of `f`. -/
```

File: Mathlib/Data/Fintype/Card.lean [hunk 2]
```diff
@@ -254,6 +254,22 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
...
+theorem existsUnique_notMem_image_of_injective_of_card_succ [DecidableEq β] (f : α ↪ β)
+    (h : Fintype.card β = Fintype.card α + 1) : ∃! x, x ∉ Finset.image f Finset.univ := by
```
Comment (IvanRenison) [inline Mathlib/Data/Fintype/Card.lean]:
```suggestion
theorem existsUnique_notMem_image_of_injective_of_card_succ [DecidableEq β] (f : α ↪ β)
    (h : card β = card α + 1) : ∃! x, x ∉ Finset.image f ⊤ := by
```

Comment (cjrl) [reply Mathlib/Data/Fintype/Card.lean]: @IvanRenison Thanks for this!

File: Mathlib/Data/Fintype/Card.lean [hunk 3]
```diff
@@ -254,6 +254,21 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
...
+  have hcard : (Finset.univ \ Finset.image f Finset.univ).card = 1 := by
+    have h := Finset.card_image_of_injective Finset.univ f.inj'
+    simp only [Function.Embedding.toFun_eq_coe, Finset.card_univ] at h
+    simp only [Finset.card_sdiff, Finset.inter_univ, Finset.card_univ, h]
+    lia
+  obtain ⟨x, hx⟩ := Finset.card_eq_one.mp hcard
+  refine ⟨x, ?_, ?_⟩
+  · exact (Finset.mem_sdiff.mp (hx ▸ Finset.mem_singleton_self x)).2
+  · intro y hy
+    exact Finset.mem_singleton.mp (hx ▸ Finset.mem_sdiff.mpr ⟨Finset.mem_univ _, hy⟩)
```
Comment (dagurtomas) [inline Mathlib/Data/Fintype/Card.lean]:
```suggestion
theorem existsUnique_notMem_image_of_injective_of_card_eq_add_one [DecidableEq β]
    (f : α → β) (hf : f.Injective) (h : card β = card α + 1) : ∃! x, x ∉ univ.image f := by
  obtain ⟨x, hx⟩ : ∃ a, univ \ univ.image f = {a} := by
    rw [← card_eq_one]
    grind [card_image_of_injective]
  have := mem_singleton_self x
  refine ⟨x, ?_, fun _ _ ↦ ?_⟩
  all_goals simp_all [← mem_singleton, ← hx]
```

**Comment by ghseeli** [comment]
-awaiting-author

**Comment by dagurtomas** [comment]
Here is a slightly better approach, that results in more usable lemmas:

```lean
theorem card_image_compl_of_injective [DecidableEq β]
    (f : α → β) (hf : f.Injective) : #(univ \ univ.image f) = card β - card α := by
  simp [card_sdiff, card_image_of_injective _ hf]

/-- Given an injective map `f : α → β` such that `β` has cardinality one more
than `α`, there exists a unique element of `β` not in the image of `f`. -/
theorem existsUnique_notMem_image_of_injective_of_card_eq_add_one [DecidableEq β]
    (f : α → β) (hf : f.Injective) (h : card β = card α + 1) : ∃! x, x ∉ univ.image f := by
  have : #(univ \ univ.image f) = 1 := by grind [card_image_compl_of_injective]
  suffices ∃! x, x ∈ univ \ univ.image f by convert this; grind
  sorry -- prove a lemma saying `#s = 1 ↔ ∃! x, x ∈ s` for finsets in general (add it in the same place as `card_eq_one`)
```

**Comment by cjrl** [comment]
-awaiting-author

File: Mathlib/Data/Fintype/Card.lean [hunk 4]
```diff
@@ -254,6 +254,22 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
       Finset.card_lt_univ_of_notMem (x := b) <| by
         rwa [← mem_coe, coe_map, coe_univ, Set.image_univ]
 
+/-- Given an injective map `f : α → β`, the cardinality of the complement of the image of `f` in `β`
+ is `card β - card α`. -/
+theorem card_image_compl_of_injective [DecidableEq β]
+    (f : α → β) (hf : f.Injective) : #(univ \ univ.image f) = card β - card α := by
+  simp [card_sdiff, card_image_of_injective _ hf]
```
Comment (b-mehta) [inline Mathlib/Data/Fintype/Card.lean]: I don't think we should have this lemma.
The better way of stating it would be as `#(univ.image f)ᶜ = card β - card α`, and then the proof is just the composition of facts in mathlib: `simp [card_compl, card_image_of_injective _ hf]`

File: Mathlib/Data/Finset/Card.lean [hunk 5]
```diff
@@ -671,6 +671,9 @@ theorem card_eq_one : #s = 1 ↔ ∃ a, s = {a} := by
   cases s
   simp only [Multiset.card_eq_one, Finset.card, ← val_inj, singleton_val]
 
+theorem card_eq_one_iff_exists_unique : #s = 1 ↔ ∃! a, a ∈ s := by
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Card.lean]:
```suggestion
theorem card_eq_one_iff_existsUnique : #s = 1 ↔ ∃! a, a ∈ s := by
```

File: Mathlib/Data/Fintype/Card.lean [hunk 6]
```diff
@@ -254,6 +254,22 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
...
+
+/-- Given an injective map `f : α → β` such that `β` has cardinality one more
+than `α`, there exists a unique element of `β` not in the image of `f`. -/
+theorem existsUnique_notMem_image_of_injective_of_card_eq_add_one [DecidableEq β]
+    (f : α → β) (hf : f.Injective) (h : card β = card α + 1) : ∃! x, x ∉ univ.image f := by
```
Comment (b-mehta) [inline Mathlib/Data/Fintype/Card.lean:261]: This theorem has a generalisation, which I think we should have:
```
theorem existsUnique_notMem_image_of_injective_of_card_eq_add_one {α β : Type*} 
    {s : Finset α} {t : Finset β} [DecidableEq β]
    (f : α → β) (hf : f.Injective) (hf' : Set.MapsTo f s t) (h : #t = #s + 1) : 
    ∃! x, x ∈ t ∧ x ∉ s.image f := by
  have : #(t \ s.image f) = 1 := by
    grind [card_sdiff_of_subset hf'.finsetImage_subset, card_image_of_injective _ hf]
  simpa [card_eq_one_iff_existsUnique] using this
```
Note that this doesn't require fintypes, only that the sets in question are finite. And then your theorem has a short proof:
```
 simpa using existsUnique_notMem_image_of_injective_of_card_eq_add_one 
    (s := .univ) (t := .univ) f hf (by simp) (by simpa)
```

File: Mathlib/Data/Finset/Card.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: (but this theorem is great and we definitely want it!)

File: Mathlib/Data/Fintype/Card.lean (hunk 4 above)
Comment (ghseeli) [reply Mathlib/Data/Fintype/Card.lean]: Thank you! Based on your refactoring of the proofs below, we have gone ahead and deleted this lemma.

File: Mathlib/Data/Finset/Card.lean (hunk 5 above)
Comment (cjrl) [reply Mathlib/Data/Finset/Card.lean]: Thanks! Glad to hear it!

File: Mathlib/Data/Fintype/Card.lean (hunk 6 above)
Comment (ghseeli) [reply Mathlib/Data/Fintype/Card.lean:261]: Okay, yeah, that is great! We went ahead and added the generalization.

**Comment by ghseeli** [comment]
-awaiting-author

File: Mathlib/Data/Fintype/Card.lean [hunk 7]
```diff
@@ -253,6 +253,23 @@ theorem card_lt_of_injective_of_notMem (f : α → β) (h : Function.Injective f
...
 
+/-- Given an injective map `f : α → β` for finite sets `s ⊂ α` and `t ⊂ β` such that `t` has
+    cardinality one more than `s`, there exists a unique element of `t` not in `f(s)`. -/
+theorem existsUnique_mem_codomain_notMem_image_of_injective_of_card_eq_add_one {α β : Type*}
+    {s : Finset α} {t : Finset β} [DecidableEq β]
+    (f : α → β) (hf : f.Injective) (hf' : Set.MapsTo f s t) (h : #t = #s + 1) :
+    ∃! x, x ∈ t ∧ x ∉ s.image f := by
+  have : #(t \ s.image f) = 1 := by
+    grind [card_sdiff_of_subset hf'.finsetImage_subset, card_image_of_injective _ hf]
+  simpa [card_eq_one_iff_existsUnique] using this
```
Comment (b-mehta) [inline Mathlib/Data/Fintype/Card.lean]: Oops - I should've mentioned this before, but this one should go in Data/Finset/Card, rather than being here. You can also likely avoid some of the variables, because they'll be in the local context already.

Comment (ghseeli) [reply Mathlib/Data/Fintype/Card.lean]: We went ahead and moved it to the Finset/Card file as you suggested, but we were not quite sure where to put it. It had to go pretty far down in the file, though, since the proof used other lemmas that were down there!

File: Mathlib/Data/Finset/Card.lean [hunk 8]
```diff
@@ -738,6 +741,16 @@ theorem one_lt_card_iff_nontrivial : 1 < #s ↔ s.Nontrivial := by
...
+/-- Given an injective map `f : α → β` for finite sets `s ⊂ α` and `t ⊂ β` such that `t` has
+    cardinality one more than `s`, there exists a unique element of `t` not in `f(s)`. -/
+theorem existsUnique_mem_codomain_notMem_image_of_injective_of_card_eq_add_one
+    {t : Finset β} [DecidableEq β]
+    (hf : f.Injective) (hf' : Set.MapsTo f s t) (h : #t = #s + 1) :
+    ∃! x, x ∈ t ∧ x ∉ s.image f := by
+  have : #(t \ s.image f) = 1 := by
+    grind [card_sdiff_of_subset hf'.finsetImage_subset, card_image_of_injective _ hf]
+  simpa [card_eq_one_iff_existsUnique] using this
+
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Card.lean]:
```suggestion
theorem existsUnique_notMem_image_of_injOn_of_card_eq_add_one
    {t : Finset β} [DecidableEq β]
    (hf : Set.InjOn f s) (hf' : Set.MapsTo f s t) (h : #t = #s + 1) :
    ∃! x, x ∈ t ∧ x ∉ s.image f := by
  have : #(t \ s.image f) = 1 := by
    grind [card_sdiff_of_subset hf'.finsetImage_subset, card_image_of_injOn hf]
  simpa [card_eq_one_iff_existsUnique] using this

```
A slight generalisation (which I should've noticed earlier!)

**Review by b-mehta — APPROVED** [review]
This looks good to me, once the suggestion is applied, feel free to merge. 
Thanks!

bors d+

**Comment by cjrl** [comment]
> This looks good to me, once the suggestion is applied, feel free to merge. 
> Thanks!
> 
> bors d+

Thanks!!
